US07737166B2
N-(2-Bromo-5-cyano-3-methoxy-6-methyl-3′-nitrobiphenyl-4-yl)-2,2-dimethylpropionamide (I-12)
N-(3-Bromo-6-cyano-4-iodo-2-methoxy-5-methylphenyl)-2,2-dimethylpropionamide (I-6) (965 mg, 2.14 mmol), 3-nitrophenylboronic acid (375 mg, 2.25 mmol), tripotassium phosphate (74-85%, 1.23 g, 4.28 mmol) and tetrakis(triphenylphosphine)palladium(0) (247 mg, 0.214 mmol) were added to a 50-ml eggplant-type flask, followed by purging with nitrogen. N,N-Dimethylformamide (20 ml) was injected into it with a syringe, followed by stirring at 95° C. for 4 hours. After cooling, the reaction liquid was diluted with ethyl acetate, successively washed with saturated brine (×3), 1 N hydrochloric acid, saturated brine, an aqueous saturated sodium hydrogencarbonate solution and saturated brine, dried on anhydrous magnesium sulfate, then the solvent was concentrated under reduced pressure to obtain a pale brown residue. The resulting residue was purified by silica gel column chromatography (n-hexane:ethyl acetate=6:1→4:1) to obtain the entitled compound (645 mg, 68%) as a pale yellow solid.

reactant | N-(3-Bromo-6-cyano-4-iodo-2-methoxy-5-methylphenyl)-2,2-dimethylpropionamide | 2.14 mmol, 965 mg | BrC=1C(=C(C(=C(C1I)C)C#N)NC(C(C)(C)C)=O)OC | C14H16BrIN2O2
reactant | 3-nitrophenylboronic acid | 2.25 mmol, 375 mg | [N+](=O)([O-])C=1C=C(C=CC1)B(O)O | C6H6BNO4
reactant | tripotassium phosphate | 4.28 mmol, 1.23 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.214 mmol, 247 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | N-(2-Bromo-5-cyano-3-methoxy-6-methyl-3′-nitrobiphenyl-4-yl)-2,2-dimethylpropionamide | 645 mg, 68% | BrC1=C(C(=C(C(=C1OC)NC(C(C)(C)C)=O)C#N)C)C1=CC(=CC=C1)[N+](=O)[O-] | C20H20BrN3O4
